US06355653B1
c) 2-Methylsulfanyl-7-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine
The title compound, MS m/e (%):258 (M+H+,100), was prepared in accordance with the general method of example 1 from 3-benzenesulfonylmethyl-5-methylsulfanyl-1H-[1,2,4]triazole and (E)/(Z)-3-pyridin-2-yl-acrylonitrile.

reactant | 3-benzenesulfonylmethyl-5-methylsulfanyl-1H-[1,2,4]triazole | C1(=CC=CC=C1)S(=O)(=O)CC1=NNC(=N1)SC | C10H11N3O2S2
reactant | (Z)-3-pyridin-2-yl-acrylonitrile | N1=C(C=CC=C1)\C=C/C#N | C8H6N2
product | 2-Methylsulfanyl-7-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | CSC1=NN2C(C=C(C=C2N)C2=NC=CC=C2)=N1 | C12H11N5S
